US04581349
2-Amino-1-benzyl-4,7-dimethoxybenzimidazole
2-Benzylamino-3-nitro-1,4-dimethoxybenzene (10.0 g, 0.03 mole) is suspended in methanol and hydrogenated in the presence of platinum oxide catalyst at 50 psi for about twelve hours. After this time the solution changes color from red to colorless. The methanol is then removed in vacuo. To the residue is added approximately 250 ml water and 3.50 g (0.03 mole) of cyanogen bromide. The flask containing this mixture is stoppered, shaken, and stirred overnight at room temperature. After treatment with activated charcoal, the solution is filtered into excess 1N NaOH, causing the precipitation of the product. The amorphous white powder melts at 191°-193° C.

reactant | 2-Benzylamino-3-nitro-1,4-dimethoxybenzene | 0.03 mole, 10.0 g | C(C1=CC=CC=C1)NC1=C(C=CC(=C1[N+](=O)[O-])OC)OC | C15H16N2O4
reactant | water | approximately 250 ml | O | H2O
reactant | cyanogen bromide | 0.03 mole, 3.50 g | N#CBr | CBrN
solvent | methanol | CO | CH4O
catalyst | platinum oxide | [Pt]=O
product | 2-Amino-1-benzyl-4,7-dimethoxybenzimidazole | NC1=NC2=C(N1CC1=CC=CC=C1)C(=CC=C2OC)OC | C16H17N3O2
